US07256201B2
According to synthetic methods F and G, N-(3-chloro-4-methoxy-phenyl)-N-[2-(3-methoxy-phenyl)-ethyl]-propionamide (0.753 g) was obtained from (3-methoxy-phenyl)-acetyl chloride (1.0 eq) and 3-chloro-4-methoxy-phenylamine (1.0 eq) followed by reaction with propionyl chloride (1.5 eq). MS: 348.4 (MH+); HPLC tR: 2.72 mm (method D); TLC Rf: 0.48 (ethyl acetate:hexane-1:1). According to synthetic methods H and B, the title compound (0.25 g) was obtained after purification by chromatography on silica gel (eluant: a gradient of 0 to 5% methanol in methylene chloride); MS: 304.2, 306.2 (MH+); HPLC tR: 1.80 min (method D); TLC Rf: 0.16 (2% methanol:methylene chloride).

reactant | (3-methoxy-phenyl)-acetyl chloride | 1.0 eq | COC=1C=C(C=CC1)CC(=O)Cl | C9H9ClO2
reactant | 3-chloro-4-methoxy-phenylamine | 1.0 eq | ClC=1C=C(C=CC1OC)N | C7H8ClNO
product | N-(3-chloro-4-methoxy-phenyl)-N-[2-(3-methoxy-phenyl)-ethyl]-propionamide | 0.753 g | ClC=1C=C(C=CC1OC)N(C(CC)=O)CCC1=CC(=CC=C1)OC | C19H22ClNO3
